US05744614
67.2 parts (0.5 mol) of 4-methylacetophenone and 53 parts (0.5 mol) of benzaldehyde were simultaneously added dropwise at 40° C. to 326.7 parts (2 mol) of 60% strength by weight sulfuric acid. The mixture was stirred at 40° C. for 2 hours and the phases were then separated. The sulfuric acid phase was initially introduced into the reaction flask with 0.5 part (0.0033 mol) of sodium iodide and the organic phase was simultaneously added dropwise at 100° C. in the course of 30 minutes with 25 parts (0.5 mol) of hydrazine hydrate. The mixture was stirred under reflux (114° C.) for 4 hours and then diluted with 250 parts of water. The mixture was neutralized with 477 parts (2.98 mol) of 25% strength by weight sodium hydroxide solution and filtered at room temperature. The filter residue was washed with water and dried. 111.2 parts of 3-phenyl-5-(4-methylphenyl)pyrazole having a purity of 94.7% (HPLC) were obtained, which corresponds to a yield of 90% of theory. M.p.:175° C.

reactant | 4-methylacetophenone | 0.5 mol | CC1=CC=C(C=C1)C(=O)C | C9H10O
reactant | benzaldehyde | 0.5 mol | C(C1=CC=CC=C1)=O | C7H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium iodide | 0.0033 mol | [I-].[Na+]
reactant | hydrazine hydrate | 0.5 mol | O.NN
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3-phenyl-5-(4-methylphenyl)pyrazole | yield of 90% | C1(=CC=CC=C1)C1=NNC(=C1)C1=CC=C(C=C1)C | C16H14N2
